US05530019
Step 3: Preparation of 1-(3-ethoxycarbonylpropyl)indole-3-carboxylic acid
A mixture of ethyl 4-(3-benzyloxycarbonyl-1-indolyl)-butyrate and 10% palladium carbon in ethanol was stirred at room temperature for 1.5 hours under a hydrogen atmosphere. Removal of the catalyst and evaporation of the solvent afforded the object product.

reactant | ethyl 4-(3-benzyloxycarbonyl-1-indolyl)-butyrate | C(C1=CC=CC=C1)OC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C22H23NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 1-(3-ethoxycarbonylpropyl)indole-3-carboxylic acid | C(C)OC(=O)CCCN1C=C(C2=CC=CC=C12)C(=O)O | C15H17NO4
